US04085116
A mixture of 1.43 parts of 6-(1-acetoxyethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile and 25 parts by volume of 1N-sodium hydroxide is stirred at room temperature for 80 minutes. After being acidified with 1N-hydrochloric acid, the reaction mixture is extracted with ethyl acetate. The ethyl acetate layer is washed with water and dried on Na2SO4. The ethyl acetate is distilled off and the resulting residue is recrystallized from ethyl acetate. The procedure yields 0.790 part of 6-(1-hydroxyethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile as colorless crystals. Melting point: 147°-148° C

reactant | 6-(1-acetoxyethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile | C(C)(=O)OC(C)C=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C14H11NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 6-(1-hydroxyethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile | OC(C)C=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C12H9NO3
